US04904616
The trifluoromethyl arsine hydrides can be made via direct reaction of the tris-trifluoromethyl arsenic iodides with zinc and hydrochloric acid. For instance, 10 g of zinc, 10 ml of water, and 15 ml of 5N HCl are shaken with 3.80 g of iodo bis-trifluoromethylarsine to give 1.03 g of bistrifluoromethylarsine (b.p. 19° C.), a 43% yield. Trifluoromethylarsine can be made by a similar method (b.p. -12.5° C.).

reactant | hydrochloric acid | Cl | ClH
reactant | HCl | 5N, 15 ml | Cl | ClH
reactant | iodo bis-trifluoromethylarsine | 3.80 g | I[As](C(F)(F)F)C(F)(F)F | C2AsF6I
catalyst | zinc | [Zn] | Zn
catalyst | zinc | 10 g | [Zn] | Zn
solvent | water | 10 ml | O | H2O
product | bistrifluoromethylarsine | 1.03 g, 43% yield | FC(F)(F)[AsH]C(F)(F)F | C2HAsF6
